US04713457
1-Methyl-3-(6-methylergolin-8β-ylmethyl)imidazolidin-2,4-dione
A mixture of 0.5 g of 6-methylergolin-8β-ylmethyl tosylate, 1.0 g of 1-methylimidazolidin-2,4-dione, 1.0 g of potassium carbonate, 10 ml of methyl ethyl ketone and 10 ml of dimethylformamide was refluxed for 4 hours with stirring, and the solvent was distilled off under reduced pressure. Water was added to the residue, and the mixture was extracted with dichloromethane. The organic layer was washed with water, dried over magnesium sulfate, and the solvent was distilled off. The residue (which was dissolved in dichloromethane and adsorbed on silica gel) was purified by silica gel column chromatography (eluted with ethyl acetate and then with ethyl acetate:isopropyl alcohol=1:1 by volume). The product was recrystallized from dichloromethane-hexane to obtain 0.3 g of the titled product as colorless needles having a melting point higher than 210° (with decomposition).

reactant | 6-methylergolin-8β-ylmethyl tosylate | 0.5 g | S(=O)(=O)(OC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C)C3=CC=C(C)C=C3 | C23H26N2O3S
reactant | 1-methylimidazolidin-2,4-dione | 1.0 g | CN1C(NC(C1)=O)=O | C4H6N2O2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | 10 ml | C(C)C(=O)C | C4H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-3-(6-methylergolin-8β-ylmethyl)imidazolidin-2,4-dione | 0.3 g | CN1C(N(C(C1)=O)C[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C)=O | C20H24N4O2
